US07786108B2
Step 3. Preparation of 4-Amino-indan-5-carboxylic acid methyl ester
Add 30% aqueous hydrogen peroxide solution (5 mL) in water (44 mL) to a solution of 1,6,7,8-Tetrahydro-1-aza-as-indacene-2,3-dione (3.80 mg, 20.3 mmol) and NaOH (5.03 g, 126 mmol) in water (97 mL) over a period of 30 minutes, stir the mixture at room temperature for 1 h. Acidulate with 1N hydrochloric acid, filter the solid, wash with water and dry to afford 4-amino-indan-5-carboxylic acid (3.13 g, 87%). Dissolve 4-amino-indan-5-carboxylic acid (3.07 g, 17.3 mmol) in ethyl acetate (87 mL) and ethanol (87 mL) and add (trimethylsilyl) diazomethane (17.3 mL, 34.6 mmol, 2 M in hexanes) at room temperature and stir the solution for 1 h. Remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (2.50 g, 76%). 1H NMR (MeOD, 300 MHz) δ 2.12 (quintuplet, J=7.6 Hz, 2H), 2.75 (t, J=7.5 Hz, 2H), 2.89 (t, J=7.5 Hz, 2H), 3.83 (s, 3H), 6.53 (d, J=8.1 Hz, 1H), 7.66 (d, J=8.1 Hz, 1H). MS (ES+): 192 (M+H).

reactant | 4-amino-indan-5-carboxylic acid | 17.3 mmol, 3.07 g | NC1=C2CCCC2=CC=C1C(=O)O | C10H11NO2
reactant | (trimethylsilyl) diazomethane | 34.6 mmol, 2 M, 17.3 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ethyl acetate | 87 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 87 mL | C(C)O | C2H6O
product | 4-Amino-indan-5-carboxylic acid methyl ester | 2.50 g, 76% | COC(=O)C=1C(=C2CCCC2=CC1)N | C11H13NO2
